US09353107B2
Step-ii: N-(5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxy phenyl) methanesulfonamide
Using similar reaction conditions as described in step-iii of example-1, N-(5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxyphenyl) methane sulfonamide (150 mg, 0.232 mmol) was hydrolyzed with lithium hydroxide (49 mg, 1.162 mmol) in THF/Methanol/Water (15/6/4 mL) to yield 17 mg (15% yield) after purification by preparative TLC (Silicagel-1000 micron) using 2% methanol in chloroform as eluent. 1H NMR (CD3OD, 400 MHz): δ 8.446-8.441 (d, 1H), 8.327-8.322 (d, 1H), 8.215 (s, 1H), 7.936 (s, 1H), 7.746-7.741 (d, 1H), 7.643 (s, 1H). 7.577-7.551 (m, 1H), 7.398-7.364 (m, 1H), 7.21-7.188 (d, 1H), 7.210-7.188 (d, 1H), 7.137-7.118 (d, 1H), 7.067-7.026 (m, 2H), 5.426 (s, 2H), 3.98 (s, 3H), 3.002 (s, 3H). MS: m/z=491.8 (M+1), HPLC: 97.01% in method A.

reactant | N-(5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxyphenyl) methane sulfonamide | 0.232 mmol, 150 mg | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C=3C=CC(=C(C3)NS(=O)(=O)C)OC)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | C32H28FN5O5S2
reactant | lithium hydroxide | 1.162 mmol, 49 mg | [OH-].[Li+]
solvent | THF Methanol Water | 4 mL | C1CCOC1.CO.O
product | N-(5-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxy phenyl) methanesulfonamide | 15% yield | FC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C=3C=CC(=C(C3)NS(=O)(=O)C)OC)C=CC1 | C25H22FN5O3S
